US04113863
A mixture of 0.5 g. 9β-hydroxy-15-oxo-13-prostenoic acid ethyl ester, 5 ml. acetic anhydride, 2 ml. acetyl chloride and 0.52 g. p-toluenesulfonic acid is heated for 3 hours, with the exclusion of moisture, at 100°; poured, after cooling, into 100 ml. ice water containing 15 g. NaHCO3 ; and extracted twice with 50 ml. amounts of diethyl ether. The organic extract is washed until neutral with water, and dried over Na2SO4. After removal of the solvent and chromatographic purification (silica gel/petroleum ether/diisopropyl ether:triethylamine = 100:100:1), 9β,15-diacetoxy-12,14-prostadienoic acid ethyl ester is obtained. UV; 243-244 nm (ε = 19800).

reactant | 9β-hydroxy-15-oxo-13-prostenoic acid ethyl ester | C(C)OC(CCCCCC[C@H]1[C@@H](CC[C@@H]1C=CC(CCCCC)=O)O)=O | C22H38O4
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 9β,15-diacetoxy-12,14-prostadienoic acid ethyl ester | C(C)OC(CCCCCC[C@H]1[C@@H](CCC1=CC=C(CCCCC)OC(C)=O)OC(C)=O)=O | C26H42O6
